US05149699
Diethyl Trifluoroacetylglutarate
To a solution of NaOEt (0.217 mol) in EtOH (prepared from 5.0 g of Na and 220 mL of EtOH) was added ethyl triflouroacetoacetate (40.0 g, 0.217 mol). After 10 min, ethyl 3-bromopropionate (35.0 g, 0.194 mol) was added and the mixture was heated under reflux for 24 h. The reaction mixture was concentrated, taken up in ether, and washed with water. The ether layers were dried (MgSO4) and concentrated to give 50 g of a yellow oil. Distillation (100°-110° C./25 mm) gave 14.0 g (23%) of product as a colorless oil.

reactant | NaOEt | 0.217 mol | CC[O-].[Na+]
reactant | ethyl triflouroacetoacetate | 0.217 mol, 40.0 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ethyl 3-bromopropionate | 0.194 mol, 35.0 g | BrCCC(=O)OCC | C5H9BrO2
solvent | EtOH | 220 mL, 5.0 g | CCO | C2H6O
product | Diethyl Trifluoroacetylglutarate | 50 g | FC(C(=O)C(C(=O)OCC)CCC(=O)OCC)(F)F | C11H15F3O5
